US09447106B2
Step 3: 6-(2-Aminophenyl)-2-(4-phenoxyphenyl)-4,5-dihydropyrazolo[1,5-a]pyrimidine-3-carbonitrile
To a solution of 6-(2-aminophenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile (320 mg, 0.79 mmol) in MeOH (20 mL) was added NaBH4 (86 mg, 2.28 mmol). The solution was stirred at it for 30 min then was poured into water (50 mL) and extracted with EA (50 mL×3). The organic combined layers were dried over Na2SO4 and concentrated to give the crude product (240 mg, 75%) as a yellow solid. MS (ESI, m/e) [M+1]+ 406.0.

reactant | 6-(2-aminophenyl)-2-(4-phenoxyphenyl)pyrazolo[1,5-a]pyrimidine-3-carbonitrile | 0.79 mmol, 320 mg | NC1=C(C=CC=C1)C=1C=NC=2N(C1)N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H17N5O
reactant | NaBH4 | 2.28 mmol, 86 mg | [BH4-].[Na+]
reactant | water | 50 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | 6-(2-Aminophenyl)-2-(4-phenoxyphenyl)-4,5-dihydropyrazolo[1,5-a]pyrimidine-3-carbonitrile | 240 mg, 75% | NC1=C(C=CC=C1)C=1CNC=2N(C1)N=C(C2C#N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C25H19N5O
